US09216173B2
A mixture of 2-amino-5-methyl-5,6,7,8-tetrahydroquinolin-5-ol (45.4 mg, 0.255 mmol), tert-butyl (1S,2R)-2-(5-bromo-6-cyanopyridin-3-ylamino)cyclohexylcarbamate (PrepEx 1.1) (111 mg, 0.280 mmol), Xantphos (15 mg, 0.025 mmol), tris(dibenzylideneacetone)dipalladium(0) (12 mg, 0.013 mmol), and cesium carbonate (207 mg, 0.637 mmol) in 1,4-dioxane (10 ml) under an argon atmosphere was heated at 80° C. in an oil bath for 2.25 hours. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate (30 mL) and saturated aqueous sodium bicarbonate solution (10 mL). The layers were separated, and the organic layer was washed with brine (10 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (1-5% methanol/dichloromethane, linear gradient) to give tert-butyl (1S,2R)-2-(6-cyano-5-(5-hydroxy-5-methyl-5,6,7,8-tetrahydroquinolin-2-ylamino)pyridin-3-ylamino)cyclohexylcarbamate. MS ESI calc'd. for C27H37N6O3 [M+H]+ 493. found 493.

reactant | 2-amino-5-methyl-5,6,7,8-tetrahydroquinolin-5-ol | 0.255 mmol, 45.4 mg | NC1=NC=2CCCC(C2C=C1)(O)C | C10H14N2O
reactant | tert-butyl (1S,2R)-2-(5-bromo-6-cyanopyridin-3-ylamino)cyclohexylcarbamate | 0.280 mmol, 111 mg | BrC=1C=C(C=NC1C#N)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C17H23BrN4O2
reactant | Xantphos | 0.025 mmol, 15 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.637 mmol, 207 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.013 mmol, 12 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl (1S,2R)-2-(6-cyano-5-(5-hydroxy-5-methyl-5,6,7,8-tetrahydroquinolin-2-ylamino)pyridin-3-ylamino)cyclohexylcarbamate | C(#N)C1=C(C=C(C=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC1=NC=2CCCC(C2C=C1)(C)O | C27H36N6O3
